US06583135B2
10-[2-(Cyclobutyloxy)phenyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
Following the procedure for the preparation of (5aS*,10bS*)10-[2-(cyclopentyloxy)phenyl]-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole and substituting cyclobutanol for cyclopentanol while making non-critical variations the title compound was obtained as 193 mg (37%) of a tan solid: mp 182.0-184.5° C. 1H NMR (400 MHz, CDCl3) δ 7.85 (br s, 1H), 7.35-7.28 (m, 3H), 7.18-7.14 (m, 1H), 7.04-7.00 (m, 1H), 6.94 (d, J=7.2 Hz, 1H), 6.84 (d, J=8.2 Hz, 1H), 4.63-4.56 (m, 1H), 3.10-3.07 (m, 2H), 2.98-2.95 (m, 2H), 2.87-2.84 (m, 2H), 2.47-2.41 (m, 2H), 2.37-2.32 (m, 2H), 2.02-2.00 (m, 2H), 1.74-1.72 (m, 1H), 1.64-1.59 (m, 1H); HRMS (FAB) calcd for C22H24N2O+H1: 333.1967 found 333.1960.

reactant | (5aS*,10bS*)10-[2-(cyclopentyloxy)phenyl]-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole | C1(CCCC1)OC1=C(C=CC=C1)C=1C=2[C@H]3[C@@H](NC2C=CC1)CCNCC3 | C23H28N2O
reactant | cyclopentanol | C1(CCCC1)O | C5H10O
product | 10-[2-(Cyclobutyloxy)phenyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | C1(CCC1)OC1=C(C=CC=C1)C=1C=2C3=C(NC2C=CC1)CCNCC3 | C22H24N2O
